US04163801
p-Cyanophenol (19.4 g) and 2,6-bis(chloromethyl)-4-fluorophenol (17.0 g) were dissolved in nitrobenzene (250 ml) at 20°. The solution was cooled to 10° and crushed aluminium chloride (anhydrous 65 g) was added in 5 g portions over two hours. During the addition the temperature was maintained at 10°-12°. Stirring was continued at 20° for 14 hrs. The viscous black mixture was poured onto a vigorously stirred mixture of ice (2 l) and dichloro methane (2 l). The organic solvent layer was dried, dichloro methane and nitrobenzene removed by vacuum distillation and the residual tar passed through a silica column. The product, 2,6-bis(5-cyano-2-hydroxybenzyl)-4-fluorophenol (mp 222°) was obtained in 3% yield.

reactant | p-Cyanophenol | 19.4 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | 2,6-bis(chloromethyl)-4-fluorophenol | 17.0 g | ClCC1=C(C(=CC(=C1)F)CCl)O | C8H7Cl2FO
reactant | aluminium chloride | 65 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dichloro methane | 2 l | ClCCl | CH2Cl2
solvent | nitrobenzene | 250 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2,6-bis(5-cyano-2-hydroxybenzyl)-4-fluorophenol | 3% yield | C(#N)C=1C=CC(=C(CC2=C(C(=CC(=C2)F)CC2=C(C=CC(=C2)C#N)O)O)C1)O | C22H15FN2O3
